* source 5 24 INVERTY 2
V_V4         N01215 0  AC 1
+SIN 0 1V 1khz 0 0 0
X_U4         N01215 N01197 VCC VEE N01246 OPA134/BB
R_R3         N01197 N01246  3k TC=0,0 
R_R4         N01197 0  1k TC=0,0 
V_V6         VEE 0 -15V
V_V7         VCC 0 15V
