* source 5 24 INVERTY
V_V1         N00219 0  AC 1
+SIN 0 1V 1kHz 0 0 0
R_R1         N00219 N00215  1k TC=0,0 
X_U1         0 N00215 VCC VEE N00238 OPA134/BB
R_R2         N00215 N00238  3k TC=0,0 
V_V2         VCC 0 15V
V_V3         VEE 0 -15V
