* source 1122-1
R_R1         N00241 N00203  6.8k TC=0,0 
R_R2         N00248 N00203  100k TC=0,0 
R_R3         N00255 N00203  100k TC=0,0 
R_R4         N00262 N00203  6.8k TC=0,0 
C_C1         N00241 N00248  0.01uF IC=5V TC=0,0 
C_C2         N00255 N00262  0.01uF IC=5V TC=0,0 
Q_Q1         N00241 N00255 0 Q2N3904
Q_Q2         N00262 N00248 0 Q2N3904
V_V1         N00203 0 5V
