* source 38DECORDER
.EXTERNAL OUTPUT Y
X_U1A         N00230 N00237 N00241 N00245 Y $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3         +5V 0 0 A B C N00230 M_UN0001 N00237 M_UN0002 N00241 M_UN0003
+  M_UN0004 N00245 $G_DPWR $G_DGND 74LS138 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ A 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1ms 1  
+ 2ms 0  
+ 3ms 1 
+ 4ms 0  
+ 5ms 1  
+ 6ms 0  
+ 7ms 1  
+ 8ms 0  
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ B 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 2ms 1  
+ 4ms 0  
+ 6ms 1 
+ 8ms 0  
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ C 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 4ms 1  
+ 8ms 0  
