* source 24DECORDER
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ A3 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
+ 2s 0  
+ 3s 1 
+ 4s 0  
+ 5s 1  
+ 6s 0  
+ 7s 1  
+ 8s 0  
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ C3 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 4s 1  
+ 8s 0  
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ B3 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 2s 1  
+ 4s 0  
+ 6s 1 
+ 8s 0  
X_U2B         C3 N00485 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         A3 B3 C3 Y0 Y1 Y2 Y3 $G_DPWR $G_DGND 74LS139A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         A3 B3 N00485 Y4 Y5 Y6 Y7 $G_DPWR $G_DGND 74LS139A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
