* source 38FULLDECORDER
.EXTERNAL OUTPUT Y1
.EXTERNAL OUTPUT Y2
X_U1A         N00278 N00298 N00451 N00323 Y1 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2         +5V 0 0 A1 B1 C1 M_UN0001 N00278 N00298 N00354 N00451 N00367
+  N00482 N00323 $G_DPWR $G_DGND 74LS138 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00354 N00367 N00482 N00323 Y2 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ A1 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
+ 2s 0  
+ 3s 1 
+ 4s 0  
+ 5s 1  
+ 6s 0  
+ 7s 1  
+ 8s 0  
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ B1 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 2s 1  
+ 4s 0  
+ 6s 1 
+ 8s 0  
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ C1 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 4s 1  
+ 8s 0  
