* source YES
.EXTERNAL OUTPUT SSSSSSSSSSSSSSSSSSSS
.EXTERNAL OUTPUT CCCCCCCCCCCCCCCCCCCCCCCCCC
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01315 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 2s 1  
+ 4s 0  
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01319 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1s 1  
+ 2s 0  
+ 3s 1 
+ 4s 0  
X_U1A         N01315 N01319 SSSSSSSSSSSSSSSSSSSS $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N01319 N01349 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         SSSSSSSSSSSSSSSSSSSS N01349 CCCCCCCCCCCCCCCCCCCCCCCCCC $G_DPWR
+  $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
