* source CAN
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND A IO_STM STIMULUS=A
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND B IO_STM STIMULUS=B
X_U1A         N00267 A Y $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         A B N00267 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00478 A Y2 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         A B N00478 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
