* source DMO
X_U1A         A B Y $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00323 N00330 Y2 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         A N00330 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         A N00323 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND A IO_STM STIMULUS=A
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND B IO_STM STIMULUS=B
