* source EMCODE 8 TIMES 3
.EXTERNAL OUTPUT Y0
.EXTERNAL OUTPUT Y1
.EXTERNAL OUTPUT Y2
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ D7 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 7ms 1  
+ 8ms 0  
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ D6 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 6ms 1  
+ 7ms 0  
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ D5 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 5ms 1  
+ 6ms 0  
U_DSTM4         STIM(1,1)
+ $G_DPWR $G_DGND
+ D4 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 4ms 1  
+ 5ms 0  
U_DSTM5         STIM(1,1)
+ $G_DPWR $G_DGND
+ D3 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 3ms 1  
+ 4ms 0  
U_DSTM6         STIM(1,1)
+ $G_DPWR $G_DGND
+ D2 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 2ms 1  
+ 3ms 0  
U_DSTM7         STIM(1,1)
+ $G_DPWR $G_DGND
+ D1 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1ms 1  
+ 2ms 0  
X_U1A         D1 D3 N00894 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         D5 D7 N00906 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         D2 D3 N00918 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         D6 D7 N00930 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         D4 D5 N00942 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         D6 D7 N00954 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         N00894 N00906 Y0 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2D         N00918 N00930 Y1 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00942 N00954 Y2 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
