* source ENCODER
.EXTERNAL OUTPUT Y0
.EXTERNAL OUTPUT Y1
X_U1A         N01187 N01191 N00620 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N01187 N01203 N00717 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00620 N00632 Y1 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N00717 N00729 Y0 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         N01203 N01227 N00632 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4B         N01191 N01227 N00729 $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01191 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 3ms 1  
+ 4ms 0  
U_DSTM3         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01203 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 2ms 1  
+ 3ms 0  
U_DSTM4         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01227 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1ms 1  
+ 2ms 0  
U_DSTM5         STIM(1,1)
+ $G_DPWR $G_DGND
+ N01187 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
+ 1ms 0  
