* source MESSIHATTRICK
X_U1A         CLK PR PR PR PR A M_UN0001 $G_DPWR $G_DGND 7476 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         CLK PR PR A A B M_UN0002 $G_DPWR $G_DGND 7476 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         CLK PR PR N01209 N01209 C M_UN0003 $G_DPWR $G_DGND 7476 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ PR 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
U_DSTM4         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
X_U3A         B A N01209 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
