* source RLC
V_V1         N00149 0  AC 0
+SIN 0 200 60 0 0 0
R_R1         N00161 N00149  1k TC=0,0 
L_L1         N00161 N00165  5uH  
C_C1         0 N00165  {cv}  TC=0,0 
.PARAM  cv=0.5u
