* source ANYTHING
X_U1A         0 N00295 VCC VEE OUT LM324
R_R2         IN N00295  2k TC=0,0 
R_R1         N00295 OUT  2k TC=0,0 
R_R3         OUT 0  1k TC=0,0 
V_V1         IN 0  AC 0
+SIN 0 5V 1Khz 0 0 0
V_V2         VCC 0 15V
V_V3         VEE 0 -15V
