* source B07_1201_1
V_V1         N00285 0 5Vdc
R_R1         NET1 N00285  6.8k TC=0,0 
R_R2         N00465 N00285  100k TC=0,0 
R_R3         N00474 N00285  100k TC=0,0 
R_R4         NET2 N00285  6.8k TC=0,0 
C_C1         NET1 N00465  0.01uF IC=5V TC=0,0 
C_C2         N00474 NET2  0.01uF IC=5V TC=0,0 
Q_Q1         NET1 N00474 0 Q2N3904
Q_Q2         NET2 N00465 0 Q2N3904
