* source 20220819-1
V_V1         N00195 0  AC 1
+SIN 0 5v 1khz 0 0 0
R_R1         N00195 N00202  1k TC=0,0 
D_D1         N00202 N00247 D1N4003 
D_D2         N00209 N00202 D1N4003 
V_V2         N00247 0 6v
V_V3         0 N00209 6v
