* source 20221202
X_U2         0 N00898 N00974 VCC N00981 N00898 N00889 VCC 555C
X_U4A         N00974 VCC VCC VCC VCC N01442 N01435 VCC 0 7476 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4B         N01442 VCC VCC VCC VCC DATA2 DATA1 VCC 0 7476 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V1         VCC 0 5V
R_R1         N00889 VCC  100k TC=0,0 
R_R2         N00898 N00889  51k TC=0,0 
R_R3         N005121 N00974  150 TC=0,0 
R_R4         N005281 N01435  150 TC=0,0 
R_R5         N005441 N01442  150 TC=0,0 
R_R6         N005601 DATA1  150 TC=0,0 
R_R7         N005761 DATA2  150 TC=0,0 
C_C1         0 N00981  0.01uF  TC=0,0 
C_C2         N00898 0  5uF IC=0V 
D_D1         N005121 0 LT-L29S-TYP 
D_D2         N005281 0 LT-L29S-TYP 
D_D3         N005441 0 LT-L29S-TYP 
D_D4         N005601 0 LT-L29S-TYP 
D_D5         N005761 0 LT-L29S-TYP 
