* source 1209_NE555_2
C_C2         0 N02295  0.1uF  TC=0,0 
R_R1         N02117 N02045  10k TC=0,0 
V_V1         N02045 0 9V
X_U1         0 N02247 N02223 N02045 N02295 N02247 N02117 N02045 555C
R_R4         0 N02223  1k TC=0,0 
R_R2         N02247 N02117  100k TC=0,0 
C_C3         0 N02247  4.7uF IC=-3 TC=0,0 
