* source 1209PCAR
X_U1         0 N01468 N01274 N01208 N01534 N01468 N01330 N01208 555C
R_R3         N01468 N01330  100k TC=0,0 
C_C1         0 N01468  0.01uF IC=-3 TC=0,0 
R_R4         N01622 N01274  150 TC=0,0 
D_D1         N01622 0 LT-L29S-TYP 
R_R6         N01334 N01258  10k TC=0,0 
C_C2         N01534 0  220uF  
Q_Q3         N01326 N01542 N01580 Q2SA562
Q_Q1         N01208 N01274 N01258 Q2SC1815
V_V1         N01208 0 9V
R_R5         0 N01580  30 TC=0,0 
X_R1         N01476 N01476 N01334 POT PARAMS: SET=0.5 VALUE=50k
R_R7         N01326 N01258  30 TC=0,0 
R_R2         N01330 N01208  10k TC=0,0 
Q_Q2         N01542 N01476 0 Q2SC1815
