* source NONNINVERTING AMPLFIER
.EXTERNAL OUTPUT VEE
.EXTERNAL INPUT VCC
X_U1         N00313 N00206 VCC VEE N00193 uA741
R_R1         0 N00206  1k TC=0,0 
R_R2         N00206 N00193  5k TC=0,0 
R_R3         0 N00193  1k TC=0,0 
V_V1         N00313 0  AC 1
+SIN 0 2Vp 1KHz 0 0 0
V_V2         VCC 0 18V
V_V3         0 VEE 18V
