* source RC CHARGE 2
X_U1         N00141 N00148 Sw_tOpen PARAMS: tOpen=50 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U2         0 N00148 Sw_tClose PARAMS: tClose=50s ttran=1u Rclosed=0.01
+  Ropen=1Meg
V_V1         N00141 0 5V
C_C1         N00155 0  100uF  
R_R1         N00148 N00155  100k TC=0,0 
