* source TR I-V 2
V_V1         N00217 0 10V
R_R1         N00229 N00217  510 TC=0,0 
Q_Q1         N00229 N00244 0 Q2N3904
R_R2         N00248 N00244  43K TC=0,0 
V_V2         N00248 0  AC 0
+SIN 2v 1V 100Hz 0 0 0
