* source TR I-V
I_I1         0 N00149 DC 40uA  
R_R1         N00149 N00156  1k TC=0,0 
Q_Q1         N00160 N00156 0 Q2N3904
V_V1         N00160 0 0Vdc
