* source TR LED MULTI
R_R1         N00308 N00254  470 TC=0,0 
R_R2         N00317 N00254  22K TC=0,0 
R_R3         N00322 N00254  22K TC=0,0 
R_R4         N00329 N00254  470 TC=0,0 
V_V1         N00254 0 9V
Q_Q1         N00329 N00317 0 Q2SC1815
C_C3         N00308 N00317  22uF IC=0 
Q_Q2         N00308 N00322 0 Q2SC1815
C_C4         N00329 N00322  22uF IC=9 
