* source BPF
X_U5         N00949 N00746 VCC VEE N00999 OPA604/BB
R_R1         N00742 N00746  1k TC=0,0 
R_R2         0 N00746  100k TC=0,0 
R_R3         N00949 0  1k TC=0,0 
R_R4         OUT N00949  10k TC=0,0 
X_U2         N00999 VEE VCC OUT BUF634X/BB
V_V3         N00698 0  AC 1
+SIN 0 500m 1k 0 0 0
C_C1         N00738 N00742  0.1uF  TC=0,0 
C_C2         0 N00746  500pF  TC=0,0 
X_VR         0 N00738 N00698 POT PARAMS: SET=0.1 VALUE=10k
V_V5         VCC 0 15V
V_V4         VEE 0 -15V
C_C39         0 VEE  0.1uF  TC=0,0 
C_C42         0 VEE  0.1uF  TC=0,0 
C_C44         N00999 N00949  20pF  TC=0,0 
C_C31         VCC 0  0.1uF  TC=0,0 
C_C37         VCC 0  0.1uF  TC=0,0 
C_C41         0 VEE  50uF  
C_C43         0 VEE  50uF  
C_C38         0 VCC  50uF  
C_C36         0 VCC  50uF  
