* source BUNJUGI 3
D_D2         N03241 0 LT-L29S-TYP 
X_U3A         N03021 N02721 N02721 N02721 N02721 N02985 N03073 N02721 0 74LS76A
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
D_D5         N03201 0 LT-L29S-TYP 
R_R1         N02817 N02721  100k TC=0,0 
R_R4         N03241 N02985  150 TC=0,0 
X_U1         0 N03033 N03021 N02721 N03129 N03033 N02817 N02721 555C
D_D3         N03245 0 LT-L29S-TYP 
R_R5         N03245 N03045  150 TC=0,0 
R_R7         N03201 N03021  150 TC=0,0 
R_R2         N03033 N02817  50k TC=0,0 
R_R3         N03237 N03073  150 TC=0,0 
D_D4         N03249 0 LT-L29S-TYP 
D_D1         N03237 0 LT-L29S-TYP 
C_C1         0 N03033  1uF  TC=0,0 
V_V1         N02721 0 5V
X_U2B         N02985 N02721 N02721 N02721 N02721 N02957 N03045 N02721 0 74LS76A
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
C_C2         0 N03129  0.01uF  TC=0,0 
R_R6         N03249 N02957  150 TC=0,0 
