* source BUNJUGI 4
X_U1         0 N00672 N00826 N00716 N00778 N00672 N00668 N00716 555C
X_U2A         N00826 N00716 N00716 N00716 N00716 N01061 N01054 N00716 0 74LS76A
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N01061 N00716 N00716 N00716 N00716 N01166 N01159 N00716 0 74LS76A
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         N00668 N00716  100k TC=0,0 
R_R2         N00672 N00668  50k TC=0,0 
R_R3         N01050 N01054  150 TC=0,0 
R_R4         N01068 N01061  150 TC=0,0 
R_R5         N01155 N01159  150 TC=0,0 
R_R6         N01151 N01166  150 TC=0,0 
R_R7         N00822 N00826  150 TC=0,0 
C_C1         0 N00672  1uF IC=0 TC=0,0 
C_C2         0 N00778  0.01uF  TC=0,0 
V_V1         N00716 0 5V
D_D1         N00822 0 LT-L29S-TYP 
D_D2         N01050 0 LT-L29S-TYP 
D_D3         N01068 0 LT-L29S-TYP 
D_D4         N01155 0 LT-L29S-TYP 
D_D5         N01151 0 LT-L29S-TYP 
