* source BUNJUGI
X_U1         0 N00683 N00798 N00639 N00718 N00683 N00651 N00639 555C
X_U2A         N00798 N00639 N00639 N00639 N00639 N01117 N00902 N00639 0 74LS76A
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N01117 N00639 N00639 N00639 N00639 N01690 N01697 N00639 0 74LS76A
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         N00651 N00639  100k TC=0,0 
R_R2         N00683 N00651  50k TC=0,0 
R_R3         N00909 N00902  150 TC=0,0 
R_R4         N01077 N01117  150 TC=0,0 
R_R5         N01704 N01697  150 TC=0,0 
R_R6         N01708 N01690  150 TC=0,0 
V_V1         N00639 0 5V
C_C1         0 N00683  1uF  TC=0,0 
C_C2         0 N00718  0.01uF  TC=0,0 
D_D1         N00909 0 LT-L29S-TYP 
D_D2         N01077 0 LT-L29S-TYP 
D_D3         N01704 0 LT-L29S-TYP 
D_D4         N01708 0 LT-L29S-TYP 
D_D5         N00812 0 LT-L29S-TYP 
R_R7         N00812 N00798  150 TC=0,0 
