* source CHARGE BALL
X_U1         N00181 N00188 Sw_tOpen PARAMS: tOpen=5 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U2         0 N00188 Sw_tClose PARAMS: tClose=5 ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R1         N00188 N00192  10k TC=0,0 
C_C1         0 N00192  100uF  TC=0,0 
V_V1         N00181 0 10v
