* source COMPARATOR 3
V_V3         N01218 0  AC 1
+SIN 0 10V 10Hz 0 0 0
V_V1         N01078 0 15V
R_R2         0 N01208  1k TC=0,0 
V_V2         0 N01234 15V
X_U1A         N01218 N01178 N01078 N01234 N01208 LM324
V_V4         N01178 0 7V
