* source COMPARATOR
X_U1A         N00377 N00259 N00266 N00359 N00342 LM324
R_R1         N00259 N00266  10k TC=0,0 
R_R2         0 N00342  1k TC=0,0 
V_V1         N00266 0 15V
V_V2         0 N00359 15V
V_V3         N00377 0  AC 1
+SIN 0 10V 10Hz 0 0 0
D_D1         0 N00259 D1N4733 
