* source INVERTING
.EXTERNAL OUTPUT VCC
.EXTERNAL INPUT VEE
X_U1         0 N00246 VCC VEE N00291 uA741
R_R1         N00250 N00246  10k TC=0,0 
R_R2         N00246 N00291  20k TC=0,0 
R_R3         0 N00291  1k TC=0,0 
V_V1         N00250 0  AC 1
+SIN 0 1V 1KHz 0 0 0
V_V2         VCC 0 18V
V_V3         0 VEE 18V
