* source NE555 MULTI 2
X_U1         0 N00484 N00506 N00311 N01337 N00484 N00488 N00311 555C
R_R1         N00488 N00311  1k TC=0,0 
R_R2         N00484 N00488  100k TC=0,0 
R_R3         0 N00506  1k TC=0,0 
C_C1         0 N00484  4.7uF IC=-3 TC=0,0 
C_C2         0 N01337  0.1uF  TC=0,0 
V_V1         N00311 0 9V
