* source NEGATIVE CLAMPER
R_R1         0 N00156  10k TC=0,0 
V_V1         N00149 0  AC 1
+SIN 0 5V 1KHz 0 0 0
C_C1         N00149 N00156  10uF  TC=0,0 
D_D1         N00156 0 D1N4001 
