* source POSITIVE CLAMPER V PERSE
D_D1         0 N00398 D1N4001 
R_R1         0 N00398  10k TC=0,0 
C_C1         N00388 N00398  10uF  TC=0,0 
V_V1         N00388 0  
+PULSE -4V +4V 1ps 1ns 1ns 0.05ms 0.1ms
