* source POSITIVE CLAMPER-2
R_R5         0 N02772  10k TC=0,0 
V_V8         N02772 N02766 5V
V_V9         N02766 0  AC 1
+SIN 0 5V 1KHz 0 0 0
D_D1         0 N02772 D1N4001 
