* source POSITIVE CLAMPER
V_V1         N00163 0  AC 1
+SIN 0 5V 1KHz 0 0 0
C_C1         N00163 N00170  1uF  TC=0,0 
D_D1         0 N00170 D1N4001 
R_R1         0 N00170  10k TC=0,0 
