* source SUM
X_U1         0 N00310 N00348 N000563 VOUT uA741
R_R1         N00310 VOUT  1k TC=0,0 
R_R2         VIN N00310  1k TC=0,0 
R_R3         0 VOUT  1k TC=0,0 
V_V1         0 N000563 18V
V_V2         N00348 0 18V
V_V3         VIN 0  AC 1
+SIN 0 1V 2KHz 0 0 0
