* source TR I-V3
Q_Q1         N00199 N00128 0 Q2N2222
R_R1         N00180 N00128  10k TC=0,0 
R_R2         N00199 N00187  100 TC=0,0 
V_V1         N00180 0 5V
V_V2         N00187 0 10V
