* source VDC R D Q
V_V1         N00137 0 15V
D_D3         N00137 N00144 D1N4001 
R_R2         N00182 N00144  1k TC=0,0 
R_R3         0 N00186  1k TC=0,0 
Q_Q1         N00144 N00182 N00186 Q2SC1815
D_D4         0 N00182 D1N756 
