* source YAY
V_V1         N00512 0  AC 1
+SIN 0 1V 2KHz 0 0 0
V_V2         N00499 0  AC 1
+SIN 0 2V 2KHz 0 0 0
V_V3         N00487 0  AC 1
+SIN 0 3V 2KHz 0 0 0
V_V4         N00480 0  AC 1
+SIN 0 5V 2KHz 0 0 0
R_R1         N00480 N00526  1k TC=0,0 
R_R2         N00487 N00526  1k TC=0,0 
R_R3         N00499 N00526  1k TC=0,0 
R_R4         N00512 N00526  1k TC=0,0 
R_R5         N00526 N00685  1k TC=0,0 
R_R6         0 N00685  1k TC=0,0 
V_V5         0 N00665 18V
V_V6         N00624 0 18V
X_U1         0 N00526 N00624 N00665 N00685 uA741
