* source AAAAAA
V_V1         N00140 0 2V
R_R1         N00140 N00147  4 TC=0,0 
R_R2         0 N00147  3 TC=0,0 
R_R3         N00154 N00147  4 TC=0,0 
V_V2         N00154 0 4V
R_R4         N00433 N00497  5 TC=0,0 
R_R5         N00497 N00466  10 TC=0,0 
R_R6         0 N00497  10 TC=0,0 
V_V3         N00433 0 10v
V_V4         N00466 0 10v
