* source 107_PS1
V_V1         N00348 0  AC 0
+SIN 0 5 1k 0 0 0
X_U1A         0 N00344 VCC VEE N00374 LM324
V_V2         VCC 0 15Vdc
V_V3         VEE 0 -15Vdc
R_R1         N00348 N00344  10k TC=0,0 
R_R2         N00344 N00374  20k TC=0,0 
R_R3         0 N00374  1k TC=0,0 
