* source 107_PS2
V_Vin         N00302 0  AC 0
+SIN 0 0.5 1k 0 0 0
C_C1         N00302 N00309  10u  TC=0,0 
C_C2         N00362 N00376  10u  TC=0,0 
V_V1         N00350 0 12Vdc
Q_Q1         N00362 N00309 N00323 Q2N3904
R_R1         N00309 N00350  10k TC=0,0 
R_R2         0 N00309  2.2k TC=0,0 
R_Re         0 N00323  1k TC=0,0 
R_R4         N00362 N00350  3.6k TC=0,0 
R_RL         0 N00376  1Meg TC=0,0 
