* source 107_PS6
.EXTERNAL INPUT OUT
V_V1         VCC+ 0 15Vdc
V_V2         0 VCC- 15vdc
C_C1         0 NET1  {var} IC=5 TC=0,0 
C_C2         N00677 OUT  1n  TC=0,0 
X_U1         N00577 NET1 VCC+ VCC- NET2 uA741
X_U2         N00693 N00677 VCC+ VCC- OUT uA741
R_R1         NET1 NET2  4.7k TC=0,0 
R_R2         N00577 NET2  47k TC=0,0 
R_R3         0 N00577  47k TC=0,0 
R_R4         0 N00693  1k TC=0,0 
R_R5         N00693 OUT  4.7k TC=0,0 
R_R6         0 OUT  1Meg TC=0,0 
D_D1         N00677 OUT D1N4148 
D_D2         OUT N00677 D1N4148 
C_C3         NET2 N00677  1n  TC=0,0 
.PARAM  var=0
